### PR TITLE
[Merged by Bors] - feat(Probability/Kernel): build a kernel from a kernel CDF

### PR DESCRIPTION
**Pull request by RemyDegenne**
Let `κ : kernel α (β × ℝ)` and `ν : kernel α β` be two finite kernels. A function `f : α × β → StieltjesFunction` is called a conditional kernel CDF of `κ` with respect to `ν` if it is measurable, tends to to 0 at -∞ and to 1 at +∞ for all `p : α × β`, if `fun b ↦ f (a, b) x` is `(ν a)`-integrable for all `a : α` and `x : ℝ` and for all measurable sets `s : Set β`, `∫ b in s, f (a, b) x ∂(ν a) = (κ a (s ×ˢ Iic x)).toReal`.

From such a function with property `hf : IsCondKernelCDF f κ ν`, we build a `kernel (α × β) ℝ` denoted by `hf.toKernel f` such that `κ = ν ⊗ₖ hf.toKernel f`.

The new file has substantial overlap with the contents of `Probability.Kernel.Disintegration` and `Probability.Kernel.CondCdf`: these two files will later be refactored to use the code in this PR.

---

- [x] depends on: #11167

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean [hunk 1]
```diff
@@ -0,0 +1,690 @@
...
+limits of integrals. -/
+structure isRatCondKernelCDFAux (f : α × β → ℚ → ℝ) (κ : kernel α (β × ℝ)) (ν : kernel α β) :
+    Prop :=
+  (measurable : Measurable f)
+  (mono' (a : α) {q r : ℚ} (_hqr : q ≤ r) : ∀ᵐ c ∂(ν a), f (a, c) q ≤ f (a, c) r)
+  (nonneg' (a : α) (q : ℚ) : ∀ᵐ c ∂(ν a), 0 ≤ f (a, c) q)
+  (le_one' (a : α) (q : ℚ) : ∀ᵐ c ∂(ν a), f (a, c) q ≤ 1)
+  (tendsto_integral_of_antitone (a : α) (s : ℕ → ℚ) (_hs : Antitone s)
+    (_hs_tendsto : Tendsto s atTop atBot) :
+    Tendsto (fun m ↦ ∫ c, f (a, c) (s m) ∂(ν a)) atTop (𝓝 0))
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean:232]: Isn't this assumption the same as requiring that the integral `∫ c, f (a, c) q ∂(ν a)` tends to `0` when `q` tends to -\infty? As it's just an auxiliary construction, I agree that you should just take the condition which is the most convenient for the proofs, but it might be worth pointing this out in some comment.

Also, if you stick with sequences, could you avoid the letter `s` for the sequence, as it's a set in the rest of the file?

File: Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean [hunk 2]
```diff
@@ -0,0 +1,690 @@
...
+
+end isRatCondKernelCDFAux
+
+section IsCondKernelCDF
+
+variable {f : α × β → StieltjesFunction}
+
+/-- A function `f : α × β → StieltjesFunction` is called a conditional kernel CDF of `κ` with
+respect to `ν` if it is measurable, tends to to 0 at -∞ and to 1 at +∞ for all `p : α × β`,
+if `fun b ↦ f (a, b) x` is `(ν a)`-integrable for all `a : α` and `x : ℝ` and for all
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean:408]:
```suggestion
`fun b ↦ f (a, b) x` is `(ν a)`-integrable for all `a : α` and `x : ℝ` and for all
```

File: Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean [hunk 3]
```diff
@@ -0,0 +1,690 @@
...
+  tendsto_atTop_one := tendsto_stieltjesOfMeasurableRat_atTop hf.measurable
+  tendsto_atBot_zero := tendsto_stieltjesOfMeasurableRat_atBot hf.measurable
+  set_integral a _ hs x := set_integral_stieltjesOfMeasurableRat hf a x hs
+
+end IsCondKernelCDF
+
+section ToKernel
+
+variable {_ : MeasurableSpace β} {f : α × β → StieltjesFunction}
+  {κ : kernel α (β × ℝ)} {ν : kernel α β} {hf : IsCondKernelCDF f κ ν}
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean:457]: Could you add `hf` to the theorems that need it? Having `Prop` variables around makes the theorems much harder to parse.

File: Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean [hunk 4]
```diff
@@ -0,0 +1,690 @@
...
+lemma IsCondKernelCDF.toKernel_Iic (p : α × β) (x : ℝ) :
+    hf.toKernel f p (Iic x) = ENNReal.ofReal (f p x) := by
+  rw [IsCondKernelCDF.toKernel_apply p, (f p).measure_Iic (hf.tendsto_atBot_zero p)]
+  simp
+
+end ToKernel
+
+section
+
+variable {f : α × β → StieltjesFunction} {hf : IsCondKernelCDF f κ ν}
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean:513]: ditto

File: Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean [hunk 5]
```diff
@@ -0,0 +1,690 @@
...
+lemma set_lintegral_toKernel_Iic [IsFiniteKernel κ] (hf : IsCondKernelCDF f κ ν)
+    (a : α) (x : ℝ) {s : Set β} (hs : MeasurableSet s) :
+    ∫⁻ b in s, hf.toKernel f (a, b) (Iic x) ∂(ν a) = κ a (s ×ˢ Iic x) := by
+  simp_rw [IsCondKernelCDF.toKernel_Iic]
+  exact hf.set_lintegral _ hs _
+
+lemma set_lintegral_toKernel_univ [IsFiniteKernel κ] (hf : IsCondKernelCDF f κ ν)
+    (a : α) {s : Set β} (hs : MeasurableSet s) :
+    ∫⁻ b in s, hf.toKernel f (a, b) univ ∂(ν a) = κ a (s ×ˢ univ) := by
+  have : ⋃ r : ℚ, Iic (r : ℝ) = univ := by
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean:524]: Doesn't this already exist under the name `Real.iUnion_Iic_rat`? Or maybe your plan is to delete this lemma altogether once it's not needed any more?

**Review by sgouezel — COMMENTED** [review]
Could you clarify in the PR description if this is meant to be used later on to refactor `Probability.Kernel.Disintegration`? For now, it gives the impression that there's quite a big overlap between the two files.

And this looks great!

File: Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean]: I left comments to explain why the assumption is written this way and renamed the variables.

File: Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/Disintegration/CdfToKernel.lean:534]: Indeed it is that lemma. I was not sure of what to do with `Real.iUnion_Iic_rat`, which is currently in `Mathlib.Probability.Kernel.CondCdf`. The new file does not import it.
I figured that since it's only a few lines I could avoid it and reprove it here.

I will later refactor CondCdf to use this, so at that point I could move `Real.iUnion_Iic_rat` here, or to a better file. I added a "todo" comment to explain this.

**Comment by RemyDegenne** [comment]
Thanks for the review!
I added a note about future refactors to the PR description.

**Comment by sgouezel** [comment]
bors r+
Thanks!
